US07157464B2
Synthesis of 2-(3,5-Diisopropyl-4-chloro-pyrazol-1-yl)-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone
Protocol T was followed using 3,5-Diisopropyl-4-chloro-1H-pyrazole, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/1, Rf=0.76) afforded the title compound as white solid. MS (ES) M+H) expected=406.9, found 407.1.

reactant | 3,5-Diisopropyl-4-chloro-1H-pyrazole | C(C)(C)C1=NNC(=C1Cl)C(C)C | C9H15ClN2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(3,5-Diisopropyl-4-chloro-pyrazol-1-yl)-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | C(C)(C)C1=NN(C(=C1Cl)C(C)C)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C21H28ClFN4O
